US07238716B2
To a mixture of 3-(5-methyl-2-phenyl-4-oxazolyl)propanamide (5.0 g) and N,N-dimethylformamide (100 ml) was added phosphoryl chloride (3.33 g) at room temperature and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals (4.10 g, 89%) of 3-(5-methyl-2-phenyl-4-oxazolyl)propionitrile. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 63-64° C.

reactant | 3-(5-methyl-2-phenyl-4-oxazolyl)propanamide | 5.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)N | C13H14N2O2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 3.33 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 3-(5-methyl-2-phenyl-4-oxazolyl)propionitrile | 4.10 g, 89% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC#N | C13H12N2O
